US04316906
(a) N-(p-Methoxyphenylthio)succinimide
A mixture of 17.1 g. (128 mmole) of N-chlorosuccinimide and 700 ml. of benzene is treated with 15 g. (107 mmole) of p-methoxythiophenol dissolved in 125 ml. of benzene. After 75 minutes, the resulting orange solution is cooled to 15° and 13.0 g. (128 mmole) of triethylamine in 125 ml. of benzene is added over a period of 25 minutes. The cooling bath is removed and the reaction is stirred at room temperature for an additional 45 minutes. The reaction mixture is then filtered and the organic solution is rinsed with three 200 ml. portions of water, 200 ml. of brine and dried (MgSO4). Removal of the solvents in vacuo gives 27.0 g. of crude product. Recrystallization from chloroform-hexane gives 21.2 g. of

reactant | N-chlorosuccinimide | 128 mmole | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | p-methoxythiophenol | 107 mmole | COC1=CC=C(C=C1)S | C7H8OS
reactant | triethylamine | 128 mmole | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(p-Methoxyphenylthio)succinimide | COC1=CC=C(C=C1)SN1C(CCC1=O)=O | C11H11NO3S
